US09034866B2
Into a 1000-mL round-bottom flask was placed a solution of tert-butyl 3-(4-bromo-3-fluorophenyl)-3-hydroxycyclobutane-1-carboxylate (62 g, 179.60 mmol, 1.00 equiv) in methanol/NaOH (40%) (300/300 mL). The resulting solution was stirred at room temperature for 3 h, concentrated under vacuum and extracted with 3×200 mL of ethyl acetate. The pH value of the aqueous layer was adjusted to 4 with hydrogen chloride (2 mol/L). The resulting solution was extracted with 3×300 mL of ethyl acetate. The organic layers were combined, washed with 1×500 mL of water and 1×500 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to afford 50 g (96%) of 3-(4-bromo-3-fluorophenyl)-3-hydroxycyclobutane-1-carboxylic acid as a yellow liquid.

reactant | tert-butyl 3-(4-bromo-3-fluorophenyl)-3-hydroxycyclobutane-1-carboxylate | 179.60 mmol, 62 g, 1.00 equiv | BrC1=C(C=C(C=C1)C1(CC(C1)C(=O)OC(C)(C)C)O)F | C15H18BrFO3
solvent | methanol NaOH | 300 mL | CO.[OH-].[Na+]
product | 3-(4-bromo-3-fluorophenyl)-3-hydroxycyclobutane-1-carboxylic acid | 50 g, 96% | BrC1=C(C=C(C=C1)C1(CC(C1)C(=O)O)O)F | C11H10BrFO3
